US04028344
Preparation of 1,2-Di[1-(t-butylazo)cyclohexylaminocarbonyl]hydrazine
To 9.27 grams (0.044 moles) of 1-t-butylazo-1-isocyanatocyclohexane stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 0.74 grams (0.022 moles) of 97% hydrazine. The reaction mixture rapidly became a solid and pentane was added to slurry the mixture. The slurry was then stirred for 60 minutes at room temperature and filtered. The filter cake was dried leaving 9.5 grams (95% crude yield) of a white powder. The product melted at 195°-197° C. with decomposition. The infrared spectrum of the product contained a strong carbonyl band at 1665 cm-1 and a broad NH band at 3350 cm-1 and a weaker band at 3080 cm-1.

reactant | 1-t-butylazo-1-isocyanatocyclohexane | 0.044 moles, 9.27 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=O | C11H19N3O
reactant | hydrazine | 0.022 moles, 0.74 grams | NN | H4N2
solvent | pentane | CCCCC | C5H12
product | 1,2-Di[1-(t-butylazo)cyclohexylaminocarbonyl]hydrazine | C(C)(C)(C)N=NC1(CCCCC1)NC(=O)NNC(=O)NC1(CCCCC1)N=NC(C)(C)C | C22H42N8O2
